US07456164B2
(4-{4-[3-(4-Methoxy-piperidin-1-yl)-propoxy]-phenyl}-tetrahydro-pyran-4-ylmethyl)-dimethyl-amine
4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol (500 mg, 2.13 mmol), 1-(3-chloro-propyl)-4-methoxy-piperidine (410 mg, 2,13 mmol), DMF (10 ml) and K2CO3 (1.18 g, 8.52 mmol) were reacted together according to general procedure B. The isolated material was subjected to chromatography on silica, eluant 95:4:1 (DCM:MeOH:NH3) to give the title compound as a yellow oil (415 mg, 50%). 1H NMR (400 MHz, CDCl3) δ7.20 (d, 2H), 6.86 (d, 2H), 4.00 (t, 2H), 3.75 (dt, 2H), 3.55 (td, 2H), 3.34 (s, 3H), 3.22 (m, 1H), 2.83-2.71 (m, 2H), 2.51 (t, 2H), 2.40 (s, 2H), 2.23-1.81 (m, 10H), 1.97 (s, 6H), 1.67-1.53 (m, 2H).

reactant | 4-(4-Dimethylaminomethyl-tetrahydro-pyran-4-yl)-phenol | 2.13 mmol, 500 mg | CN(C)CC1(CCOCC1)C1=CC=C(C=C1)O | C14H21NO2
reactant | 1-(3-chloro-propyl)-4-methoxy-piperidine | 2,13 mmol, 410 mg | ClCCCN1CCC(CC1)OC | C9H18ClNO
reactant | K2CO3 | 8.52 mmol, 1.18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (4-{4-[3-(4-Methoxy-piperidin-1-yl)-propoxy]-phenyl}-tetrahydro-pyran-4-ylmethyl)-dimethyl-amine | 415 mg, 50% | COC1CCN(CC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN(C)C | C23H38N2O3
